US04597902
N,N-bis(1-Methylethyl)-1,2-ethanediamine, dihydrochloride
A solution of 40.54 g (0.148 mole) of 2-[2-[[N,N-bis(1-methylethyl)amino]ethyl]-2H-isoindole-1,3-dione and hydrazine hydrate (85%, 11.8 g, 0.2 mole) in 400 ml of 95% ethanol was heated at reflux for 5 hours. The reaction mixture was allowed to cool to room temperature while standing overnight. A white solid formed. The reaction mixture was concentrated almost to dryness on the rotary evaporator. The residue was dissolved in chloroform and extracted with 10% sodium hydroxide. After removing chloroform, a brown oil was obtained. A portion of the oil was dissolved in methanol and converted to the dihydrochloride salt. After recrystallization from methanol-diethyl ether, 1.50 g (20%) of white crystalline product, m.p. 178°-182° C. (decomposition) was obtained.

reactant | 2-[[N,N-bis(1-methylethyl)amino]ethyl]-2H-isoindole-1,3-dione | CC(C)N(C(C)C)CCN1C(C2=CC=CC=C2C1=O)=O | C16H22N2O2
reactant | hydrazine hydrate | 0.2 mole, 11.8 g | O.NN
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | N,N-bis(1-Methylethyl)-1,2-ethanediamine, dihydrochloride | Cl.Cl.CC(C)N(CCN)C(C)C | InChI=1S/C8H20N2.2ClH/c1-7(2)10(6-5-9)8(3)4;;/h7-8H,5-6,9H2,1-4H3;2*1H
